US05332739
Preparation of 1,3-dimethyl-6-[4-(3-[2-hydroxy-5-nitrophenyloxy]propyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione (Compound y)
In 15 ml of anhydrous tetrahydrofuran were suspended 0.63 g of 2-nitrocatechol, 1.0 g of 1,3-dimethyl-6-[4-(3-hydroxypropyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione (Compound a) and 1.06 g of triphenylphosphine, and 0.71 g of diethyl azodicarboxylate was added to the resultant suspension. Afterward, the resultant mixture was treated in the same manner as in Reference Example 4 to obtain 0.65 g of light yellow crystals. The crystals were recrystallized from ethanol to obtain 0.55 g of crystalline 1,3-dimethyl-6-[4-(3-[2-hydroxy-5-nitrophenyloxy]propyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione (Compound y).

reactant | 2-nitrocatechol | 0.63 g | [N+](=O)([O-])C1(C(O)C=CC=C1)O | C6H7NO4
reactant | 1,3-dimethyl-6-[4-(3-hydroxypropyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione | 1.0 g | CN1C(N(C(C=C1N1CCN(CC1)CCCO)=O)C)=O | C13H22N4O3
reactant | triphenylphosphine | 1.06 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.71 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 1,3-dimethyl-6-[4-(3-[2-hydroxy-5-nitrophenyloxy]propyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione | 0.65 g | CN1C(N(C(C=C1N1CCN(CC1)CCCOC1=C(C=CC(=C1)[N+](=O)[O-])O)=O)C)=O | C19H25N5O6
